US09328076B2
3. Synthesis of 2-(3,5-dichlorophenylamino)-4-methylamino-6-chloro-1,3,5-triazine
The title compound was synthesized from 2-methylamino-4,6-dichloro-1,3,5-triazine and 3,5-dichloroaniline using a similar procedure to the one used in 2, except with a longer reaction time (18 h instead of 2 h). Yield: 10%; Tm 242° C.; FTIR (CH2Cl2/KBr) 3275, 3184, 3126, 3081, 2960, 2920, 2849, 1641, 1606, 1573, 1546, 1534, 1507, 1448, 1425, 1388, 1306, 1279, 1253, 1237, 1229, 1205, 1165, 1126, 1115, 1107, 1092, 1035, 984, 954, 937, 869, 854, 837, 809, 793, 753, 725 cm−1; 1H NMR (300 MHz, DMSO-d6, 298 K) δ 10.39, 10.23 (s, s, 1H), 8.24 (s, 1H), 7.86, 7.83 (d, d, 3J=1.8 Hz, 2H), 7.23, 7.20 (t, t, 3J=1.8 Hz, 1H), 2.86, 2.82 (s, d, 3J=4.7 Hz, 3H) ppm; 13C NMR (75 MHz, DMSO-d6): δ 167.7, 165.7, 165.5, 163.6, 162.9, 141.5, 133.83, 133.77, 121.5, 117.8, 117.6, 27.29, 27.23 ppm; HRMS (EI) calcd. for C10H8Cl3N5 (m/e): 302.9845. found: 302.9839.

reactant | 2-methylamino-4,6-dichloro-1,3,5-triazine | CNC1=NC(=NC(=N1)Cl)Cl | C4H4Cl2N4
reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | CH2Cl2 KBr | C(Cl)Cl.[K+].[Br-]
product | 2-(3,5-dichlorophenylamino)-4-methylamino-6-chloro-1,3,5-triazine | Yield: 10% | ClC=1C=C(C=C(C1)Cl)NC1=NC(=NC(=N1)NC)Cl | C10H8Cl3N5
